US04604390
2-Amino-N-[2-[2-(diethylamino)ethyl]-2H-[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]acetamide, dihydrochloride
A mixture of 3 g of N-[2-[2-(Diethylamino)ethyl]-2H-[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,3-dihydro-1,3-dioxo-2H-isoindol-2-acetamide, monohydrochloride, prepared as described in Example 96A, 0.784 ml of 54% aqueous hydrazine, and 40 ml of methanol was stirred for 2 days. The solution was then evaporated to dryness and the residue was diluted with water and extracted three times with 35-ml portions of ethyl acetate. The combined extracts were washed with 25 ml of saturated aqueous sodium carbonate solution and then dried over anhydrous magnesium sulfate. The ethyl acetate solutions were evaporated to afford the title compound as the free base. The dihydrochloride salt crystallizes from a methanolic solution of the free base upon acidification with 2.25 equivalents of hydrochloric acid.

reactant | N-[2-[2-(Diethylamino)ethyl]-2H-[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,3-dihydro-1,3-dioxo-2H-isoindol-2-acetamide, monohydrochloride | 3 g | Cl.C(C)N(CCN1N=C2C=3C(=C(C=CC13)NC(CN1C(C3=CC=CC=C3C1=O)=O)=O)SC1=C2C=CC=C1)CC
reactant | hydrazine | 0.784 ml | NN | H4N2
solvent | methanol | 40 ml | CO | CH4O
product | 2-Amino-N-[2-[2-(diethylamino)ethyl]-2H-[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]acetamide, dihydrochloride | Cl.Cl.NCC(=O)NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC=C1 | InChI=1S/C21H25N5OS.2ClH/c1-3-25(4-2)11-12-26-16-10-9-15(23-18(27)13-22)21-19(16)20(24-26)14-7-5-6-8-17(14)28-21;;/h5-10H,3-4,11-13,22H2,1-2H3,(H,23,27);2*1H
